US04104367
Preparation of 6-dimethylamino-4-(4-hydroxyphenyl)-4-phenyl heptan-3-one hydrobromide
Into a 100 ml flask equipped for stirring, under a nitrogen atmosphere are placed 0.55g of 6-dimethylamino-4-(4-methoxyphenyl)-4-phenyl-heptane-3-one, 40 ml of methylene chloride and 12.1 ml of a solution of boron tribromide/methylene chloride (10% solution obtained commercially). The mixture was allowed to stir at room temperature overnight. Thereafter, 30 ml. of methanol was added with cooling. The residual oil, obtained upon removing the solvent at reduced pressure, was treated with 7 ml of water, whereupon the crude product crystallized. After filtration and washing with water, the solid was recrystallized from water to give 0.137 g of the above captioned product m.p. 246°-247.5° C. Concentration of the aqueous filtrate yielded a small second crop of 20 mg.

reactant | 6-dimethylamino-4-(4-methoxyphenyl)-4-phenyl-heptane-3-one | 0.55g | CN(C(CC(C(CC)=O)(C1=CC=CC=C1)C1=CC=C(C=C1)OC)C)C | C22H29NO2
reactant | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
reactant | boron tribromide methylene chloride | B(Br)(Br)Br.C(Cl)Cl
solvent | methanol | CO | CH4O
product | 6-dimethylamino-4-(4-hydroxyphenyl)-4-phenyl heptan-3-one hydrobromide | Br.CN(C(CC(C(CC)=O)(C1=CC=CC=C1)C1=CC=C(C=C1)O)C)C | InChI=1S/C21H27NO2.BrH/c1-5-20(24)21(15-16(2)22(3)4,17-9-7-6-8-10-17)18-11-13-19(23)14-12-18;/h6-14,16,23H,5,15H2,1-4H3;1H
